US06262074B1
Step 1: 5-Amino-8-bromoquinoline
At reflux, 10.0 g of 8-bromo-5-nitroquinoline in 68 ml of glacial acetic acid and 34 ml of ethanol were added dropwise to a mixture of 7.75 g of iron powder, 18 ml of glacial acetic acid and 9 ml of ethanol. After stirring for 45 minutes at reflux, the mixture was cooled and filtered through diatomaceous earth. The filtrate was concentrated, taken up in methylene chloride, washed with sodium carbonate solution, dried and concentrated.

reactant | 8-bromo-5-nitroquinoline | 10.0 g | BrC=1C=CC(=C2C=CC=NC12)[N+](=O)[O-] | C9H5BrN2O2
solvent | acetic acid | 68 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 34 ml | C(C)O | C2H6O
catalyst | iron | 7.75 g | [Fe] | Fe
solvent | ethanol | 9 ml | C(C)O | C2H6O
solvent | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
product | 5-Amino-8-bromoquinoline | NC1=C2C=CC=NC2=C(C=C1)Br | C9H7BrN2
